### PR TITLE
feat(Order/OrderIsoNat): some lemmas about `((· < ·) : ℕ → ℕ → Prop) ↪r r`

### PR DESCRIPTION
**Pull request by Hagb**
This PR contains several lemmas about relation embedding from `<` in `Nat`, well order, and (in)finiteness.

- `RelEmbedding.infinite_iff_nonempty_relEmbedding_of_isWellOrder`: a type with a well order relation is infinite iff there is such a relation embedding.
- `RelEmbedding.finite_iff_empty_relEmbedding_of_isWellOrder`: a finite variant of `infinite_iff_nonempty_relEmbedding_of_isWellOrder`
- `IsWellOrder.finite_of_isWellOrder_of_isWellOrder_swap`: a type with a linear order relation well founded on both directions is finite.
- `instFiniteOfWellFoundedLTOfWellFoundedGT`: an instance variant of `IsWellOrder.finite_of_isWellOrder_of_isWellOrder_swap` on `WellFounded{LT,GT}`.
- `RelEmbedding.infinite_iff_nonempty_relEmbedding_lt_or_nonempty_relEmbedding_gt`: a type with a linear order relation is infinite iff there are both relation embedding between `<` in `Nat` and this relation, and between `>` in `Nat` and this relation.
- `RelEmbedding.finite_iff_isEmpty_relEmbedding_lt_and_isEmpty_relEmbedding_gt`: a finite variant of `infinite_iff_nonempty_relEmbedding_lt_or_nonempty_relEmbedding_gt`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

<details>

<summary> Edit: remove the description on the original motivation since `WellQuasiOrdered` instead of theorems in this PR can be used for that goal. </summary>

`RelEmbedding.finite_iff_empty_relEmbedding_of_isWellOrder` might be used for proof of
```lean
example {α β γ} [LinearOrder α] [LinearOrder β] [WellFoundedLT α] [WellFoundedLT β] [LinearOrder γ]
    {f : α × β ≃ γ} (mono : Monotone f) : WellFoundedLT γ := sorry
```
The latter will be used for
```lean
example {α β γ} [Finite α] [LinearOrder β] [WellFoundedLT β] [LinearOrder γ]
    {f : (α → β) ≃ γ} (mono : Monotone f) : WellFoundedLT γ := sorry
```
And the finial goal is the well-foundedness of monomial order when the index type `σ` is finite (under the definition in #39214).

### CODE REVIEW

**Comment by Hagb** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/7619a95e9b38ae5e4d5ff597cc3ead7c0cf926f9?reference=bf8b279cf644f4fde83a78621e971f6747c99190) for 7619a95e9b38ae5e4d5ff597cc3ead7c0cf926f9 against bf8b279cf644f4fde83a78621e971f6747c99190 are in. No significant results found. @Hagb

- ✅ `build//instructions`: **-165.2G** (**-0.10%**)

**Small changes (2✅, 2🟥)**

- ✅ `build/module/Mathlib.Analysis.Calculus.LocalExtr.Polynomial//instructions`: **-125.2M** (**-1.50%**)
- 🟥 `build/module/Mathlib.Lean.CoreM//instructions`: **+166.4M** (**+7.59%**)
- 🟥 `build/module/Mathlib.Order.OrderIsoNat//instructions`: **+7.2G** (**+62.07%**) (reduced significance based on *//lines)
- ✅ `build/module/Mathlib.Probability.Distributions.Gaussian.IsGaussianProcess.Def//instructions`: **-148.0M** (**-2.10%**)

File: Mathlib/Order/OrderIsoNat.lean [hunk 1]
```diff
@@ -76,6 +76,95 @@ theorem not_wellFounded (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r) : ¬Well
...
+  letI pred := omegaInitialSeqAux n'
+  haveI hmin := wf.exists_minimal (Set.Iic pred.val)ᶜ pred.prop.infinite_compl.nonempty
+  refine ⟨hmin.choose, ?_⟩
+  suffices Set.Iic hmin.choose = insert hmin.choose (Set.Iic pred.val) from
+    this ▸ pred.prop.insert hmin.choose
+  grind [Minimal]
+
+variable (α) in
+private noncomputable abbrev omegaInitialSeq [Infinite α] [LinearOrder α] [WellFoundedLT α]
+    (n : Nat) : α := omegaInitialSeqAux α n
```
Comment (SnirBroshi) [inline Mathlib/Order/OrderIsoNat.lean]: I think `omegaInitialSeq` could simply be `Order.succ^[·] ⊥` (after `let := wf.toOrderBot` and `let := SuccOrder.ofLinearWellFoundedLT`)

The `Set.Iic a |>.Finite` part could be a lemma, or maybe you could define an `InitialSeg` and get it from there.

File: Mathlib/Order/OrderIsoNat.lean [hunk 2]
```diff
@@ -76,6 +76,95 @@ theorem not_wellFounded (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r) : ¬Well
...
+
+variable (α) in
+private lemma omegaInitialSeq_lt_omegaInitialSeq_succ [Infinite α] [LinearOrder α]
+    [wf : WellFoundedLT α] (n : Nat) : omegaInitialSeq α n < omegaInitialSeq α (n + 1) := by
```
Comment (SnirBroshi) [inline Mathlib/Order/OrderIsoNat.lean]: `StrictMono`?

File: Mathlib/Order/OrderIsoNat.lean [hunk 3]
```diff
@@ -76,6 +76,95 @@ theorem not_wellFounded (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r) : ¬Well
...
+  | 0 =>
+    unfold omegaInitialSeq omegaInitialSeqAux
+    generalize_proofs _ _ hmin
+    simpa [omegaInitialSeqAux, bot_lt_iff_ne_bot] using hmin.choose_spec.prop
+  | n' + 1 =>
+    simp only [Subtype.coe_lt_coe, omegaInitialSeqAux, Set.compl_Iic, Set.mem_Ioi, Subtype.mk_lt_mk]
+    generalize_proofs hmin hmin'
+    exact hmin'.choose_spec.prop
+
+theorem infinite_iff_nonempty_relEmbedding_of_isWellOrder [IsWellOrder α r] :
```
Comment (vihdzp) [inline Mathlib/Order/OrderIsoNat.lean:84]: You can prove this without importing ordinals by using initial segments.

More precisely, you can prove a strengthening of [`InitialSeg.total`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/InitialSeg.html#InitialSeg.total) where one side is a principal segment rather than an initial one. Then, for any well-order `α`, either there exists `ℕ ≤i α` (and thus `α` is infinite), or there exists `α <i ℕ` (and thus `α` is finite).

File: Mathlib/Order/OrderIsoNat.lean [hunk 4]
```diff
@@ -76,6 +76,95 @@ theorem not_wellFounded (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r) : ¬Well
...
+  have : WellFounded (Function.swap r) := IsWellFounded.wf
+  rw [wellFounded_iff_isEmpty] at this
+  exact Function.isEmpty RelEmbedding.swap
+
+instance (priority := low) _root_.instFiniteOfWellFoundedLTOfWellFoundedGT {α : Type*}
+    [LinearOrder α] [WellFoundedLT α] [WellFoundedGT α] : Finite α :=
+  IsWellOrder.finite_of_isWellOrder_of_isWellOrder_swap LT.lt
+
+theorem infinite_iff_nonempty_relEmbedding_lt_or_nonempty_relEmbedding_gt
+    [Std.Trichotomous r] [IsStrictOrder α r] :
```
Comment (vihdzp) [inline Mathlib/Order/OrderIsoNat.lean]: I don't think we really use either of these typeclasses much in Mathlib? Do you need this unbundled version of the theorem, or can we prove the one for `LinearOrder α` instead?

Comment (SnirBroshi) [reply Mathlib/Order/OrderIsoNat.lean]: That's because this combination is called [`IsStrictTotalOrder`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#IsStrictTotalOrder), and [`linearOrderOfSTO`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/RelClasses.html#linearOrderOfSTO) exists

Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean]: Thanks! I will replace them to [`IsStrictTotalOrder`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#IsStrictTotalOrder).

A question came to my mind when I decided to use the combination instead of the bundled one: why there wasn't an instance that synthesizes `IsStrictTotalOrder` from  `Std.Trichotomous` + `IsStrictOrder`. If it was intended, the only reason I can conceive of at that time was performance (since there would be a circle with such an instance)?

edit: a reason I used the  `Std.Trichotomous` + `IsStrictOrder` instead of `IsStrictTotalOrder` is that the lemma can be applied when `Std.Trichotomous` and `IsStrictOrder` exist or can be synthesized, even if `IsStrictTotalOrder` can not be synthesized.

Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean]: Resolve in https://github.com/leanprover-community/mathlib4/pull/39545/commits/26ddc969a13b84a4444f78726b6f09aeed218427.

File: Mathlib/Order/OrderIsoNat.lean (hunk 3 above)
Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean:84]: Thanks! Resolved in https://github.com/leanprover-community/mathlib4/pull/39545/commits/c685c5a92a80006d09fe5e948c811e18baae4b98.

I use [`InitialSeg.total`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/InitialSeg.html#InitialSeg.total) and then [`InitialSeg.principalSumRelIso`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=InitialSeg.principalSumRelIso#doc) to get `α <i ℕ`.

> More precisely, you can prove a strengthening of [InitialSeg.total](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/InitialSeg.html#InitialSeg.total) where one side is a principal segment rather than an initial one

I didn't make an other patch and let this PR depend on it, since the above way seems simple enough.
Regarding strengthening `InitialSeg.total`, I also imaged something like this?
```lean
noncomputable def Principle.total (r s) [IsWellOrder α r] [IsWellOrder β s] :
    (r ≺i s) ⊕ (r ≃r s) ⊕ (s ≺i r) :=
  match InitialSeg.total r s with
  | .inl f => (f.principalSumRelIso).elim .inl (.inr ∘ .inl)
  | .inr g => (g.principalSumRelIso).elim (.inr ∘ .inr) (.inr ∘ .inl ∘ .symm)
```

File: Mathlib/Order/OrderIsoNat.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean]: Thanks! I updated the proof with `InitialSeg` in https://github.com/leanprover-community/mathlib4/commit/c685c5a92a80006d09fe5e948c811e18baae4b98.

File: Mathlib/Order/OrderIsoNat.lean (hunk 2 above)
Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean]: Yes it was for `StrictMono`. It has been removed since the proof of `infinite_iff_nonempty_relEmbedding_of_isWellOrder` uses `InitialSeg` instead.

File: Mathlib/Order/OrderIsoNat.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Order/OrderIsoNat.lean:84]: I think that version of the theorem could be called something like `PrincipalSeg.trichotomy`, by analogy.

Comment (Hagb) [reply Mathlib/Order/OrderIsoNat.lean:84]: I think `total` is indeed not a good name. One of my concerns about `trichotomy` was that, trichotomy implies that exactly one holds, while it seems that there is not a predicate of it in Lean/Mathlib. ([zulip: exactly one of the following holds](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/exactly.20one.20of.20the.20following.20holds/with/564314899)).

I just checked constants whose names contain `trichotomous` ([loogle](https://loogle.lean-lang.org/?q=%22trichotomous%22)) or `trichotomy` ([loogle](https://loogle.lean-lang.org/?q=%22trichotomy%22)), and found the results interesting:

- `trichotomous`: most of them state `¬ r a b → ¬ r b a → a = b` (or other similar forms), maybe following [`Std.Trichotomous`](https://leanprover-community.github.io/mathlib4_docs/Init/Core.html#Std.Trichotomous);
- `trichotomy`: most of them state `r a b ∨ a = b ∨ r b a` (or other similar forms).

Yeah, `trichotomy` seems a better idea for that theorem.

edit: `r a b → r b a → a = b` -> `¬ r a b → ¬ r b a → a = b`
